US04438270
To a solution of 0.47 g of 5-acetylamino-2-amino-2-difluoromethylpentanoic acid methylester in 10 ml of ether is added simultaneously at 0° C. 0.18 g of propionylchloride and 0.2 g of triethylamine. The reaction mixture is stirred at room temperature for 2 hours then extracted with ethylacetate. The organic phase is washed with a solution of sodium bicarbonate, water, then brine and dried over magnesium sulfate. Evaporation of the solvent gives 5-acetylamino-2-difluoromethyl-2-propionylaminopentanoic acid methylester.

reactant | 5-acetylamino-2-amino-2-difluoromethylpentanoic acid methylester | 0.47 g | COC(C(CCCNC(C)=O)(C(F)F)N)=O | C9H16F2N2O3
reactant | propionylchloride | 0.18 g | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
solvent | ether | 10 ml | CCOCC | C4H10O
product | 5-acetylamino-2-difluoromethyl-2-propionylaminopentanoic acid methylester | COC(C(CCCNC(C)=O)(NC(CC)=O)C(F)F)=O | C12H20F2N2O4
